US08802664B2
A mixture of benzothiazol-2-yl(3-bromophenyl)methanol (200 mg), 4-methoxy-phenylboronic acid (142 mg), tetrakis(triphenylphosphine)palladium (50 mg), potassium carbonate (259 mg), water (4 mL), ethanol (1 mL) and toluene (9 mL) is purged with argon and refluxed for one night. After cooling at room temperature, the mixture is diluted with water and diethylether. The organic phase is dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by column chromatography (heptane/ethyl acetate 2/1) to afford benzothiazol-2-yl(4′-methoxybiphenyl-3-yl)methanol as a beige solid.

reactant | benzothiazol-2-yl(3-bromophenyl)methanol | 200 mg | S1C(=NC2=C1C=CC=C2)C(O)C2=CC(=CC=C2)Br | C14H10BrNOS
reactant | 4-methoxy-phenylboronic acid | 142 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 259 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 4 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | benzothiazol-2-yl(4′-methoxybiphenyl-3-yl)methanol | S1C(=NC2=C1C=CC=C2)C(O)C=2C=C(C=CC2)C2=CC=C(C=C2)OC | C21H17NO2S
